US07608639B2
3-{4-[3-(2-Benzyl-4-ethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 2-benzyl-4-ethyl-phenol as in Example 18 to afford 0.040 g (13%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C31H29O4F 484, found 485 (M+1, 100%).

reactant | 3-[4-(3-bromo-5-fluoro-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)Br)C)=O | C17H16BrFO3
reactant | 2-benzyl-4-ethyl-phenol | C(C1=CC=CC=C1)C1=C(C=CC(=C1)CC)O | C15H16O
product | 3-{4-[3-(2-Benzyl-4-ethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid | C(C1=CC=CC=C1)C1=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)F)C=CC(=C1)CC | C31H29FO4
